US06900215B2
3-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]isonicotinamide (100 mg, 0.41 mmol) was coupled to 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine (121 mg, 0.46 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 4% methanol, then recrystallisation from toluene, gave 3-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]isonicotinamide as a yellow solid: δH (400 MHz, d6-DMSO) 7.50-7.60 (3H, m), 7.65 (1H, s), 7.80-7.86 (2H, m), 8.02 (1H, s), 8.30 (1H, s), 8.73-8.76 (2H, m), 9.33 (1H, d, J 7); m/z (ES+) 402 (M++H).

reactant | 3-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]isonicotinamide | 0.41 mmol, 100 mg | CC1(COB(OC1)C=1C=CC(=C(C1)C1=C(C(=O)N)C=CN=C1)F)C | C17H18BFN2O3
reactant | 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.46 mmol, 121 mg | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
product | 3-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]isonicotinamide | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=C(C(=O)N)C=CN=C2 | C19H11F4N5O
